US04374248
A. 2-[(2-{2,3-Dimethylguanidino}thiazol-4-yl)methylthio]ethylamine dihydrochloride
Cysteamine hydrochloride (2.25 g; 19.6 mmoles) and 4-chloromethyl-2-(2,3-dimethylguanidino)thiazole (5 g; 19.6 mmoles) [prepared from 1,3-dichloro-2-propanone and (N,N'-dimethylamidino)thiourea which is itself prepared from dimethyl cyanodithioiminocarbonate and methylamine] were dissolved in 17.5 ml of concentrated hydrochloric acid and heated at an oil bath temperature of 100°. After 24 hours the reaction mixture was evaporated under reduced pressure and the residue crystallized from absolute ethanol to yield the title compound, mp 243°-245°.

reactant | Cysteamine hydrochloride | 19.6 mmoles, 2.25 g | Cl.NCCS
reactant | 4-chloromethyl-2-(2,3-dimethylguanidino)thiazole | 19.6 mmoles, 5 g | ClCC=1N=C(SC1)NC(=NC)NC | C7H11ClN4S
solvent | hydrochloric acid | 17.5 ml | Cl | ClH
product | 2-[(2-{2,3-Dimethylguanidino}thiazol-4-yl)methylthio]ethylamine dihydrochloride | Cl.Cl.CN=C(NC=1SC=C(N1)CSCCN)NC | InChI=1S/C9H17N5S2.2ClH/c1-11-8(12-2)14-9-13-7(6-16-9)5-15-4-3-10;;/h6H,3-5,10H2,1-2H3,(H2,11,12,13,14);2*1H
